US08455483B2
b) 3-(3-Cyanophenethoxy)propanoic acid
Prepared by the method of Example 1, step e using tert-butyl 3-(3-cyanophenethoxy)propanoate [Examples 81-175, step a] (7.0 g) in place of tert-butyl 3-(4-(2-(4-(2-isopropylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl)phenethoxy)propanoate. After concentration in-vacuo, the residue was azeotroped with toluene (×2) to afford the subtitled compound. Yield 2.8 g.

reactant | tert-butyl 3-(3-cyanophenethoxy)propanoate | C(#N)C=1C=C(CCOCCC(=O)OC(C)(C)C)C=CC1 | C16H21NO3
reactant | tert-butyl 3-(4-(2-(4-(2-isopropylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl)phenethoxy)propanoate | C(C)(C)C=1SC=C(N1)C(=O)N1CCOC2(C1)CCN(CC2)CCC2=CC=C(CCOCCC(=O)OC(C)(C)C)C=C2 | C32H47N3O5S
product | 3-(3-Cyanophenethoxy)propanoic acid | C(#N)C=1C=C(CCOCCC(=O)O)C=CC1 | C12H13NO3
